15
R0000 0 0 1 1 -1E+3
R0102 1 2 1
R0301 3 1 1
R0403 4 3 1
R0504 5 4 1
R0602 6 2 1
R0705 7 5 1
R0809 8 9 1
R1011 10 11 1
R1208 12 8 1
R1310 13 10 1
R0614 6 14 1
R1206 12 6 1
R1512 15 12 1
R1315 13 15 1
R0713 7 13 1
C0901 9 1 1.0911072903873
C1104 11 4 1.0911072903873
C1502 15 2 0
C0515 5 15 0
C0602 6 2 2.13488153514118
C1503 15 3 3.00092290958855
C0705 7 5 2.13488153514118
C0306 3 6 0
C0703 7 3 0
H0900 9 0 1 0 -1E+3
H1100 11 0 4 0 -1E+3
H0200 2 0 6 0 -1E+3
H0300 3 0 15 0 -1E+3
H0500 5 0 7 0 -1E+3
H1200 12 0 8 0 -1E+3
H1300 13 0 10 0 -1E+3
V1400 14 0 1
.ac log 180 0.02 5.0 rads